US04643763
1-Acetonylindene (2.4 g) was added to a solution of sodium dimethylmalonate (5.3 equiv) in anhydrous methanol (80 ml) and the mixture was stirred and heated at reflux for 12 hr. The solvent was evaporated and the residue was azeotroped with toluene. The dry residue was dissolved in anhydrous dimethylformamide (80 ml) at 60° C. Propionic anhydride (5.3 equiv) was added and the mixture was stirred and heated at reflux for 0.5 hr. The cooled mixture was poured into a dilute aqueous hydrochloric acid solution which was then extracted with diethyl ether. The organic fraction was evaporated and the residue was heated at reflux with potassium hydroxide (5 g) in water (80 ml) for 4 hr. The cooled mixture was extracted with diethyl ether. The aqueous fraction was heated to 60° C. and was acidified by dropwise addition of a dilute aqueous hydrochloric acid solution. The cooled mixture was extracted with diethyl ether. The dried (MgSO4) organic fraction was evaporated and the residue was purified by column chromatography over silica with dichloromethane elution to give 4-propionylspiro[cyclohexane-1,1'-indan]-3,5-dione as a pale yellow oil. Pmr spectrum (CDCl3 ; δ in ppm): 1.17 (3H, t); 2.03 (2H, t); 2.64-3.24 (8H, m); 7.21-7.25 (4H, m); 18.27 (1H, s). 4-Butyrylspiro[cyclohexane-1,1'-indan]-3,5-dione was similarly prepared from 1-acetonylideneindane, sodium dimethyl malonate and n-butyric anhydride and was obtained as a pale yellow oil. Pmr spectrum (CDCl3 ; δ in ppm): 1.00 (3H, t); 1.70 (2H, m); 2.02 (2H, t); 2.62-3.14 (8H, m); 7.20-7.25 (4H, m); 18.33 (1H, s).

reactant | 1-Acetonylindene | 2.4 g | C(C(=O)C)C1C=CC2=CC=CC=C12 | C12H12O
reactant | sodium dimethylmalonate | 5.3 equiv | CC(C(=O)[O-])(C(=O)[O-])C.[Na+].[Na+]
reactant | Propionic anhydride | 5.3 equiv | C(CC)(=O)OC(CC)=O | C6H10O3
reactant | hydrochloric acid | Cl | ClH
solvent | methanol | 80 ml | CO | CH4O
product | 4-propionylspiro[cyclohexane-1,1'-indan]-3,5-dione | C(CC)(=O)C1C(CC2(CCC3=CC=CC=C23)CC1=O)=O | C17H18O3
